US05146002
Synthesis of 3,4-dimethoxy(4,4-dimethyl-3-oxopentanoyl)benzene
In a 200 ml three-necked flask equipped with a mechanical stirrer, dropping funnel, reflux condenser, and a nitogen-inlet tube, 2.45 gm (61 mmol) of 60% sodium hydride, 10 gm (51 mmol) of methyl 3,4-dimethoxybenzoate, and 100 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream, and refluxed with heating while 6.1 gm (61 mmol) of pinacolone was added dropwise. The refluxing under heat was continued for 7 hours. After cooling the reaction mixture, 30 ml of 2N hydrochloric acid was added and the mixture was extracted twice with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was removed by evaporation to give a crude product. Hexane was added to the crude product and insoluble substances were filtered off. The filtrate was concentrated by evaporation, and recrystallization afforded 8.9 gm of the target compound as colorless needles (yield: 65%).

reactant | sodium hydride | 61 mmol, 2.45 gm | [H-].[Na+]
reactant | methyl 3,4-dimethoxybenzoate | 51 mmol, 10 gm | COC=1C=C(C(=O)OC)C=CC1OC | C10H12O4
reactant | pinacolone | 61 mmol, 6.1 gm | CC(C(C)(C)C)=O | C6H12O
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | Hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,4-dimethoxy(4,4-dimethyl-3-oxopentanoyl)benzene | 8.9 gm, yield: 65% | COC=1C=C(C=CC1OC)C(CC(C(C)(C)C)=O)=O | C15H20O4
